US04460773
In 50 ml of hexanol was dissolved 2.1 g (0.091 mole) of metallic sodium, and then, 14.6 g (0.043 mole) of 5-(4-tolylsulfonyl)-1-phenyl-1H-pyrazolo[3,4-b]pyrazine was added to the solution. The mixture was heated under reflux for 2 hours. After completion of the reaction, the exessive amount of hexanol was removed by distillation under a reduced pressure. The residue was washed with water, dried and then recrystallized from a benzene/methanol (1:2) mixed solvent to obtain 11.5 g (the yield was 90%) of 5-hexyloxy-1-phenyl-1H-pyrazolo[3,4-b]pyrazine in the form of a colorless needle crystal.

reactant | sodium | 0.091 mole, 2.1 g | [Na] | Na
reactant | 5-(4-tolylsulfonyl)-1-phenyl-1H-pyrazolo[3,4-b]pyrazine | 0.043 mole, 14.6 g | C1(=CC=C(C=C1)S(=O)(=O)C=1N=C2C(=NC1)N(N=C2)C2=CC=CC=C2)C | C18H14N4O2S
reactant | hexanol | 50 ml | C(CCCCC)O | C6H14O
product | 5-hexyloxy-1-phenyl-1H-pyrazolo[3,4-b]pyrazine | yield was 90% | C(CCCCC)OC=1N=C2C(=NC1)N(N=C2)C2=CC=CC=C2 | C17H20N4O
